US07446199B2
To a solution of 2,3-difluorophenylacetic acid (236 mg, 1.4 mmol) in THF at OC was added 3.85 mL (3.85 mmol) of a solution of lithium bis-trimethylsilylamide in THF. The resulting solution was then added to solution of a 2:1 mixture of ethyl 1H-pyrazolo[3,4-b]pyridine-3-carboxylate and isopropyl 1H-pyrazolo[3,4-b]pyridine-3-carboxylate (104 mg, 0.55 mmol) in THF. The resulting mixture was heated at 75C for 3 hours. The reaction progress was monitored by TLC and HPLC and quenched with saturated NH4Cl, diluted with EtOAc and washed with saturated NaHCO3 and brine. The organic layer was dried over MgSO4 and concentrated to give 137 mg (91% yield) of 2-(2,3-difluorophenyl)-1-(1H-pyrazolo[3,4-b]pyridin-3-yl)ethanone. LC-MS Rt=3.3 min ES+ (274.0) ES− (272.1).

reactant | 2,3-difluorophenylacetic acid | 1.4 mmol, 236 mg | FC1=C(C=CC=C1F)CC(=O)O | C8H6F2O2
reactant | lithium bis-trimethylsilylamide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ethyl 1H-pyrazolo[3,4-b]pyridine-3-carboxylate | N1N=C(C=2C1=NC=CC2)C(=O)OCC | C9H9N3O2
reactant | isopropyl 1H-pyrazolo[3,4-b]pyridine-3-carboxylate | 0.55 mmol, 104 mg | N1N=C(C=2C1=NC=CC2)C(=O)OC(C)C | C10H11N3O2
solvent | THF | C1CCOC1 | C4H8O
product | 2-(2,3-difluorophenyl)-1-(1H-pyrazolo[3,4-b]pyridin-3-yl)ethanone | 137 mg, 91% yield | FC1=C(C=CC=C1F)CC(=O)C1=NNC2=NC=CC=C21 | C14H9F2N3O
